US06340759B1
6-Methoxy-3-(4-trifluoromethylphenyl)isoquinolin-1-one obtained by reacting N-methyl-4-methoxy-2-methylbenzamide (1.0 g) and 4-trifluoromethylbenzonitrile (0.96 g) according to Example 10-1 was reacted with phosphorus oxychloride (10 ml) according to Example 10-2, to give 1-chloro-6-methoxy-3-(4-trifluoromethylphenyl)isoquinoline dihydrochloride.

reactant | N-methyl-4-methoxy-2-methylbenzamide | 1.0 g | CNC(C1=C(C=C(C=C1)OC)C)=O | C10H13NO2
reactant | 4-trifluoromethylbenzonitrile | 0.96 g | FC(C1=CC=C(C#N)C=C1)(F)F | C8H4F3N
reactant | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-6-methoxy-3-(4-trifluoromethylphenyl)isoquinoline dihydrochloride | Cl.Cl.ClC1=NC(=CC2=CC(=CC=C12)OC)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C17H11ClF3NO.2ClH/c1-23-13-6-7-14-11(8-13)9-15(22-16(14)18)10-2-4-12(5-3-10)17(19,20)21;;/h2-9H,1H3;2*1H
